US07265246B2
Add 2-methyl-5-(2-nitrovinyl)thiophene (483 mg crude, 2.855 mmol, 1 eq) as a solution in diethyl ether (15 mL) to a solution of lithium aluminum hydride (227 mg, 5.995 mmol, 2.1 eq) in diethyl ether (5.995 mL) at a rate such as to maintain gentle reflux of the solution. Stir reaction for 5 minutes. Cautiously add water followed by several small portions of potassium sodium tartrate. Stir reaction vigorously for 1 hour and then let stand overnight. Separate organics, dry with magnesium sulfate, and concentrate on rotovap to give 360 mg of crude product as an oil. Perform column chromatography to give 82 mg (20% yield) of 2-(5-methylthiophen-2-yl)ethylamine. MS (m/e): 142.0 (MH+).

reactant | 2-methyl-5-(2-nitrovinyl)thiophene | 2.855 mmol, 483 mg, 1 eq | CC=1SC(=CC1)C=C[N+](=O)[O-] | C7H7NO2S
reactant | lithium aluminum hydride | 5.995 mmol, 227 mg, 2.1 eq | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
reactant | potassium sodium tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | diethyl ether | 15 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 5.995 mL | C(C)OCC | C4H10O
product | 2-(5-methylthiophen-2-yl)ethylamine | 82 mg, 20% yield | CC1=CC=C(S1)CCN | C7H11NS
